US04031221
49 ml. of a 1M solution of boron trihydride in tetrahydrofuran are added dropwise to a stirred suspension of 5.3 g of 1-(indol-3-ylglyoxyloyl)-4-(m-chlorophenoxy)piperidine in 100 ml. of tetrahydrofuran under nitrogen. After an initial evolution of gas, the solution turns yellow and is stirred at ambient temperature for 13 hours. The tetrahydrofuran is removed under reduced pressure to give a solid white borane complex. The complex is destroyed by refluxing in 100 ml. of methanol with several drops of glacial acetic acid for one hour. After cooling, the methanol is removed under reduced pressure, leaving a yellow oil. The oil is evacuated at about 3 mm. for 72 hours and a gummy solid forms. The solid is recrystallized from acetonitrile and then from an ethanol and water mixture to give white microcrystals of 3{2-[4-(m-chlorophenoxy)piperidyl]ethyl}indole, m.p. 120°-123° C.

reactant | boron trihydride | B | BH3
reactant | 1-(indol-3-ylglyoxyloyl)-4-(m-chlorophenoxy)piperidine | 5.3 g | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)OC1=CC(=CC=C1)Cl)=O | C21H19ClN2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3{2-[4-(m-chlorophenoxy)piperidyl]ethyl}indole | ClC=1C=C(OC2CCN(CC2)CCC2=CNC3=CC=CC=C23)C=CC1 | C21H23ClN2O
